US06897231B2
C. ([5-(3-Benzo[d]furan-2-yl(1H-indazol-5-yl))(1H-1,2,4-triazol-3-yl)]methyl)dimethylamine
([5-(3-Benzo[d]furan-2-yl-1-perhydro-2H-pyran-2-yl(1H-indazol-5-yl))(1H-1,2,4-triazol-3-yl)]methyl)dimethylamine (15 mg, 0.034 mmol) in anhydrous HCl (5.0 mL of a 4 N solution in 1,4-dioxane) was vigorously stirred at ambient temperature for 18 h. The reaction mixture was neutralized with the slow addition of satd. NaHCO3 and extracted with ethyl acetate. The organic layer was washed with brine, dried over MgSO4 and concentrated in vacuo to give a solid which was redissolved in a minimum amount of ethyl acetate and precipitated with hexanes to give the desired product as an off-white powder. The product was further purified by preparatory HPLC using a 30-80% acetonitrile/water gradient with 0.1% CF3CO2H. Fractions containing the desired product were pooled and evaporated to give a pale yellow solid which was partitioned between ethyl acetate and satd. NaHCO3. The organic layer was separated, washed with brine, dried over MgSO4 and concentrated in vacuo to give a solid which was dissolved in a minimum amount of methanol/ethyl acetate and precipitated with hexanes. The solid was collected, washed with ethyl ether/hexanes and dried under vacuum to afford the desired product as a pale solid (5.0 mg, 41% yield) 1H NMR (DMSO-d6) δ 8.9 (s, 1H), 8.14 (dd, 1H), 7.8-7.6 (m, 3H), 7.46 (s, 1H), 7.4-7.26 (m, 2H), 4.65 (s, 2H), 1.85 (s, 6H); ES-MS (m/z) 359 [M+H]+.

reactant | ([5-(3-Benzo[d]furan-2-yl-1-perhydro-2H-pyran-2-yl(1H-indazol-5-yl))(1H-1,2,4-triazol-3-yl)]methyl)dimethylamine | 0.034 mmol, 15 mg | O1C(=CC2=C1C=CC=C2)C2C(OCCC2)N2N=CC1=CC(=CC=C21)C2=NC(=NN2)CN(C)C | C25H26N6O2
reactant | 1,4-dioxane | O1CCOCC1 | C4H8O2
solvent | HCl | Cl | ClH
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | ([5-(3-Benzo[d]furan-2-yl(1H-indazol-5-yl))(1H-1,2,4-triazol-3-yl)]methyl)dimethylamine | O1C(=CC2=C1C=CC=C2)C2=NNC1=CC=C(C=C21)C2=NC(=NN2)CN(C)C | C20H18N6O
